US08431596B2
[5-(2,3-Dihydro-benzo[1,4]dioxin-6-yl)-7-methyl-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine (XX-311)
A microwave tube was charged with 5-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-7-methyl-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (50 mg, 0.177 mmol), 1-[2-(4-bromophenoxy)ethyl]pyrrolidine (0.05 ml, 0.23 mmol), tris(dibenzylideneacetone)dipalladium (8 mg. 0.009 mmol), Xantphos (10 mg, 0.018 mmol), sodium tert butoxide (35 mg, 0.354 mmol) and dioxane (1 ml). Dimethylacetamide (2 drops) was added to assist with microwave absorption. The mixture was heated at 130° C. for 15 min. Upon cooling the reaction mixture was filtered through a plug of silica and washed with methanol. The volatiles were removed in vacuo and the product was purified by preparatory HPLC. LCMS RT: 2.67 min, MI: 472, Method: 2. 1H NMR (DMSO, 300 MHz): 1.79 (m, 4H), 2.42 (s, 3H), 2.85 (m, 4H), 3.08 (t, 2H), 4.09 (t, 2H), 4.33 (brs, 4H), 6.89 (d, 2H), 7.00 (d, 1H), 7.04 (d, 2H), 7.29 (s, 1H), 7.60 (m, 3H), 7.65 (d, 2H), 9.36 (s, 1H).

reactant | 5-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-7-methyl-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 0.177 mmol, 50 mg | O1CCOC2=C1C=CC(=C2)C2=CC(=CC=1N2N=C(N1)N)C | C15H14N4O2
reactant | 1-[2-(4-bromophenoxy)ethyl]pyrrolidine | 0.23 mmol, 0.05 ml | BrC1=CC=C(OCCN2CCCC2)C=C1 | C12H16BrNO
reactant | Xantphos | 0.018 mmol, 10 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | sodium tert butoxide | 0.354 mmol, 35 mg | CC(C)([O-])C.[Na+]
catalyst | Dimethylacetamide | 2 drops | CC(=O)N(C)C | C4H9NO
catalyst | tris(dibenzylideneacetone)dipalladium | 0.009 mmol, 8 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | [5-(2,3-Dihydro-benzo[1,4]dioxin-6-yl)-7-methyl-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine | O1CCOC2=C1C=CC(=C2)C2=CC(=CC=1N2N=C(N1)NC1=CC=C(C=C1)OCCN1CCCC1)C | C27H29N5O3
